US07956223B2
Into a 200 ml flask, 2.58 g of sodium borohydride and 25 g of dimethoxyethane were charged at room temperature and the obtained mixture was heated to 50° C. A mixed solution of 6.1 g of 2,3,5,6-tetrafluoroterephthalic acid and 20 g of dimethoxyethane was added dropwise to the mixture over 1 hour while stirring at the same temperature to effect the reaction for 7 hours at 60° C. After adding 25 g of toluene to the reaction mixture and cooling the obtained mixture at 25° C., 8.5 g of 35% by weight aqueous hydrochloric acid was added thereto dropwise over 1 hour at 25 to 30° C. and the resultant mixture was stirred and kept for 6 hours at 25 to 30° C. To the obtained mixture, 30 g of water was added. After leaving the mixture at rest, the mixture was separated to an organic layer and an aqueous layer. The aqueous layer was extracted twice with 30 g of ethyl acetate and the obtained oil layers were mixed with the organic layer previously obtained. The organic layer after mixing was washed with 10 g of a saturated potassium carbonate and then 10 g of water, and the organic layer was concentrated to obtain the solid containing 2,3,5,6-tetrafluorobenzenedimethanol. The yield of 2,3,5,6-tetrafluorobenzenedimethanol was 33%. Alternatively, 4-carboxy-2,3,5,6-tetrafluorobenzyl alcohol was formed as by-products in the yield of 29%, and a raw material 2,3,5,6-tetrafluoroterephthalic acid remained in 38%.

reactant | sodium borohydride | 2.58 g | [BH4-].[Na+]
reactant | 2,3,5,6-tetrafluoroterephthalic acid | 6.1 g | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
reactant | hydrochloric acid | Cl | ClH
reactant | 2,3,5,6-tetrafluorobenzenedimethanol | FC1(C(C(=C(C=C1F)F)F)CO)CO | C8H8F4O2
solvent | water | 30 g | O | H2O
solvent | toluene | 25 g | C1(=CC=CC=C1)C | C7H8
solvent | dimethoxyethane | 20 g | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 25 g | C(OC)COC | C4H10O2
product | 4-carboxy-2,3,5,6-tetrafluorobenzyl alcohol | yield of 29% | C(=O)(O)C1=C(C(=C(CO)C(=C1F)F)F)F | C8H4F4O3
